US06562828B1
To a solution of 4-ethoxycarbonyl-4-[2-(1,3-dioxolan-2-yl)ethyl]piperidine-1-carboxylic acid tert-butyl ester (450 mg) in chloroform (2 ml) was added trifluoroacetic acid (2 ml), and the mixture was stirred for several minutes. After completion of the reaction, the solvent was evaporated and to the obtained residue was added aqueous sodium hydrogencarbonate solution. The mixture was extracted with ethyl acetate and washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated to give 4-[2-(1,3-dioxolan-2-yl)ethyl]piperidine-4-carboxylic acid ethyl ester. Then, in the same manner as in Example 10, Step 1, the title compound (460 mg) was obtained from sodium hydrogencarbonate (127 mg) and benzyloxycarbonyl chloride (0.22 ml).

reactant | 4-ethoxycarbonyl-4-[2-(1,3-dioxolan-2-yl)ethyl]piperidine-1-carboxylic acid tert-butyl ester | 450 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC1OCCO1)C(=O)OCC | C18H31NO6
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-(1,3-dioxolan-2-yl)ethyl]piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCNCC1)CCC1OCCO1 | C13H23NO4
